US06136807
Preparation of Isooctyl Acrylate/N-Vinyl-2-pyrrolidone/Elvacite™ 1020 (77/20/3) Copolymer
A flask equipped with an agitator, condenser, nitrogen inlet tube and an addition funnel was charged with isooctyl acrylate (134.75 g), N-vinyl-2-pyrrolidone (35.0 g) and Elvacite™ 1020 (5.25 g) premixed in a mixture of ethyl acetate (236.25 g) and methanol (26.25 g). The mixture was heated to 60° C. with medium agitation and purged with nitrogen to remove oxygen. 2,2'-Azobis-(2-methyl-butyronitrile) (0.26 g, Wako™ V-59) was added to initiate reaction. The reaction temperature was maintained at 57° C. and the reaction was run for about 24 hours. After termination of the reaction additional ethyl acetate (90 g) and methanol (10 g) were added. The inherent viscosity was 1.4 dl/g.

reactant | isooctyl acrylate | 134.75 g | C(C=C)(=O)OCCCCCC(C)C | C11H20O2
reactant | N-vinyl-2-pyrrolidone | 35.0 g | C(=C)N1C(CCC1)=O | C6H9NO
solvent | ethyl acetate | 236.25 g | C(C)(=O)OCC | C4H8O2
solvent | methanol | 26.25 g | CO | CH4O
solvent | methanol | 10 g | CO | CH4O
solvent | ethyl acetate | 90 g | C(C)(=O)OCC | C4H8O2
product | Isooctyl Acrylate N-Vinyl-2-pyrrolidone | C(C=C)(=O)OCCCCCC(C)C.C(=C)N1C(CCC1)=O | InChI=1S/C11H20O2.C6H9NO/c1-4-11(12)13-9-7-5-6-8-10(2)3;1-2-7-5-3-4-6(7)8/h4,10H,1,5-9H2,2-3H3;2H,1,3-5H2
